US07728025B2
(Step 2) Production of 1-(2-(6-(4-methanesulfonyl-phenoxy)-2-(1H-pyrazol-3-yl)-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone
49.2 mg of t-butyl 2-(6-(4-methanesulfonyl-phenoxy)-2-(1H-pyrazol-3-yl)-3H-benzimidazol-5-yl)-pyrrolidin-1-carboxylate was dissolved in 1 ml of 4 N hydrochloric acid-dioxane, and the reaction liquid was stirred at room temperature for 2 hours. The reaction solvent was evaporated away under reduced pressure, and 0.012 ml of acetic anhydride was added to 2 ml of a pyridine solution of the resulting residue, and stirred at room temperature for 30 minutes. The reaction solvent was evaporated away under reduced pressure, and the resulting residue was purified through partitioning thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (by Merck), chloroform/methanol=9/1) to obtain the entitled compound as a brown solid.

reactant | t-butyl 2-(6-(4-methanesulfonyl-phenoxy)-2-(1H-pyrazol-3-yl)-3H-benzimidazol-5-yl)-pyrrolidin-1-carboxylate | 49.2 mg | CS(=O)(=O)C1=CC=C(OC=2C(=CC3=C(N=C(N3)C3=NNC=C3)C2)C2N(CCC2)C(=O)OC(C)(C)C)C=C1 | C26H29N5O5S
reactant | hydrochloric acid dioxane | 4 N, 1 ml | Cl.O1CCOCC1
product | 1-(2-(6-(4-methanesulfonyl-phenoxy)-2-(1H-pyrazol-3-yl)-3H-benzimidazol-5-yl)-pyrrolidin-1-yl)-ethanone | CS(=O)(=O)C1=CC=C(OC=2C(=CC3=C(N=C(N3)C3=NNC=C3)C2)C2N(CCC2)C(C)=O)C=C1 | C23H23N5O4S
